US06251890B1
Step 3: Preparation of 7-nitro-2,3-dihydro-2-trifluoroacetyl-1H-Benz[de]isoquinoline-6-sulfonyl Chloride
Solid 2,3-dihydro-2-trifluoroacetyl-1H-Benz[de]isoquinoline-6-sulfonyl chloride (6 mmol) is added portionwise to cold (0° C.) 90% nitric acid (5 mL). The resulting mixture is stirred at 0° C. overnight then cautiously poured into ice-water. The precipitate is collected by filtration and washed with ice-water to give the title compound. The crude product can be purified by recrystallization or chromatography.

reactant | 2,3-dihydro-2-trifluoroacetyl-1H-Benz[de]isoquinoline-6-sulfonyl chloride | 6 mmol | FC(C(=O)N1CC2=CC=CC=3C2=C(C1)C=CC3S(=O)(=O)Cl)(F)F | C14H9ClF3NO3S
reactant | nitric acid | 5 mL | [N+](=O)(O)[O-] | HNO3
product | 7-nitro-2,3-dihydro-2-trifluoroacetyl-1H-Benz[de]isoquinoline-6-sulfonyl Chloride | [N+](=O)([O-])C=1C=2C3=C(CN(CC3=CC1)C(C(F)(F)F)=O)C=CC2S(=O)(=O)Cl | C14H8ClF3N2O5S
